data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_551696_0,[C:1](/[C:5](=[C:4](/[N:3]([N:2]([O:6][H:8])[H:10])[H:11])[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C@:4]1([O:7][H:9])[N:2]([O:6][H:8])[N:3]1[H:11])([H:10])[H:12])([H:13])([H:14])[H:15],59.4531149999915
MR_607375_0,[C:1]([C:2]([N:4]([C:3]([H:15])([H:16])[H:17])[C:5](=[O:8])[H:14])([H:12])[H:13])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:2]([N:4]([C:3]([H:15])([H:16])[H:17])[C:5]([O:8][H:9])([H:11])[H:14])([H:12])[H:13])(=[O:6])[O:7][H:10],56.1788200000187
MR_287640_1,[N:1]1([H:9])[C:2]2([O:6][H:8])[C:3]1([N:4]([H:10])[H:11])[N:7]=[C:5]2[H:12]>>[n:1]1([H:9])[c:2]([O:6][H:8])[c:5]([H:12])[n:7][c:3]1[N:4]([H:10])[H:11],17.317117500008976
MR_229853_0,[C:1]([C:3]([N:2](/[C:5](=[N:6]/[N:4]([H:9])[H:10])[H:11])[H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:3]([N:6]([N:4]([H:9])[H:10])/[C:5](=[N:2]/[H:8])[H:11])=[O:7])([H:12])([H:13])[H:14],43.55477500000305
MR_341863_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:6]([C:5]([C:4]([H:20])([H:21])[H:22])(/[C:7](=[N:9]/[H:11])[H:13])[O:8][H:10])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:6](=[C:5](/[C:4]([H:20])([H:21])[H:22])[O:8][H:10])[H:12])/[C:7](=[N:9]/[H:11])[H:13],67.21152500002148
MR_29949_1,[N:1](=[C:2](/[N:5]1[C:3]([H:7])([H:9])[C:4]1([H:10])[H:11])[H:8])\[H:6]>>[N:1](/[C:2](=[N:5]\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7],60.379305000007264
MR_302949_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:5]([H:9])[H:10])[C:6](=[C:7]([H:18])[H:19])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])=[C:6](\[C:7]([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:18])[H:19])[H:11],59.8114174999786
MR_475796_1,[C:1]12([H:9])[N:2]([H:8])[C@:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C@@:3]1([H:10])[O:7]2>>[C:1]1([C:5](=[C:6]([H:13])[H:14])[H:12])([H:9])[N:2]([H:8])[C:4]([H:11])=[C:3]([H:10])[O:7]1,46.97339500000382
MR_677230_0,[C:1]12([H:6])[C:2]([H:7])([H:8])[O:5][N:4]1[O:3]2>>[C:1](=[C:2]([H:7])[H:8])([O:3][N:4]=[O:5])[H:6],19.52340750000303
MR_350224_1,[C:1]([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20])=[O:9])([O:7][C:2]([H:12])([H:13])[H:14])([O:8][H:10])[H:11]>>[C:1]([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20])([O:7][C:2]([H:12])([H:13])[H:14])[O:9][H:10])(=[O:8])[H:11],35.86225250002073
MR_375914_2,[C:1]([N:2]([H:8])[H:9])(/[C:3](=[N:6]\[H:10])[H:12])=[C:4]([C:5](=[N:7]/[H:11])\[H:14])/[H:13]>>[C:1]([N:2]([H:8])[H:9])(=[C:4]([C:3](=[N:6]/[H:10])\[H:12])/[H:13])/[C:5](=[N:7]\[H:11])[H:14],71.11269249998102
MR_152530_2,[C:1]([C:2]1([C:3](=[O:7])[H:9])[C:4]([C:5]([H:8])([H:14])[H:15])([H:10])[O:6]1)([H:11])([H:12])[H:13]>>[C:1](/[C:2](=[C:3](\[O:7][H:8])[H:9])[O:6][C:4](=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13],72.30494250000277
MR_575894_2,[C:1]1([N:5]([C:3]([H:11])([H:12])[H:13])[O:7][H:8])([H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:6]1>>[C:1]1([N:5]([C:3]([H:11])([H:12])[H:13])[O:7][H:8])([H:9])[C@@:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:6]1,67.9802124999712
MR_260906_1,[C:1](/[C:5](=[N:3]\[H:10])[N:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:11])([O:6][H:9])([H:12])[H:13]>>[C:1](/[C:5]([N:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:10])=[N:7]\[H:11])([O:6][H:9])([H:12])[H:13],42.52379250000217
MR_359071_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])([H:10])[N:8]1[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])(/[C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])=[N:8]/[H:11])[H:10],66.92664000002736
MR_244334_1,[C:1]([C:2]1([H:10])[C:3](=[C:5]([H:13])[H:14])[N:7]1[H:9])(=[C:4]([H:11])[H:12])[O:6][H:8]>>[C:1](/[C:2]([C:3](=[C:5]([H:13])[H:14])[H:10])=[N:7]/[H:9])(=[C:4]([H:11])[H:12])[O:6][H:8],65.11379250000303
MR_418987_1,[N:1]([N:2]([N:4]([H:10])[H:11])[H:9])([C:3]([O:5][H:7])=[O:6])[H:8]>>[N:1]([N:2]([C:3]([O:5][H:7])=[O:6])[N:4]([H:10])[H:11])([H:8])[H:9],51.50896500000243
MR_251304_0,[C:1]([C:4]([C:3]([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])=[O:6])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:4]1([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])[C:3](=[O:6])[O:7]1)([H:9])([H:10])[H:11],45.91103749997515
MR_312205_0,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:8])[O:5][O:6][H:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:6][H:7])[C:4]([C:2]([H:12])([H:13])[H:14])([H:8])[O:5]1)([H:9])([H:10])[H:11],26.924770000007072
MR_349641_1,[C@:1]([N:2]([H:9])[H:10])([O:5][H:7])(/[N:6]=[C:4](\[N:3]([H:11])[H:12])[H:13])[H:8]>>[C:1](\[O:5][H:7])(=[N:6]/[C:4]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])[H:13])[H:8],56.08845999999716
MR_374488_0,[C:1]([N:4](/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]/[C:2]([H:12])([H:13])[H:14])[H:9])([O:6][H:8])([H:10])[H:11]>>[C:1]([O:6][H:8])([N:7]([C:2]([H:12])([H:13])[H:14])/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:4]/[H:9])([H:10])[H:11],66.87204749998685
